US06713471B1
To a solution of 4-chloro-1,1-diphenyl-1-butene (200 mg, 0.82 mmol) in EtOAc (8.0 mL) was added Pd/C (10%, 50 mg). The reaction mixture was stirred under H2 atmosphere for 15 h at 20° C. The reaction mixture was filtered through celite and the filterate was concentrated to give the analytically pure 4-Chloro-1,1-diphenylbutane (201 mg, 99%) as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ1.70-1.81 (m, 2H), 2.16-2.25 (m, 2H), 3.54 (t, 2H, J=6.5 Hz), 3.91 (t, 1H, J=7.8 Hz), 7.15-7.31 (m, 10H) ppm.

reactant | 4-chloro-1,1-diphenyl-1-butene | 0.82 mmol, 200 mg | ClCCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H15Cl
solvent | EtOAc | 8.0 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 4-Chloro-1,1-diphenylbutane | 201 mg, 99% | ClCCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H17Cl
